US06150351
Phosphorus oxychloride (473 μl) was added dropwise to a mixture of N,N-dimethylformamide (388 μl) and ethyl acetate (1 ml) under ice-cooling. After being stirred for 10 minutes at the same temperature, the mixture was cooled until a precipitate appeared. To the suspension was added tetrahydrofuran (17 ml). The suspension was stirred at the same temperature for 30 minutes. To the suspension was added 2-(5-tert-butoxycarbonylamino-1,2,4-thiadiazol-3-yl)acetic acid (1.0 g). The mixture was stirred at the same temperature for 30 minutes to give an activated acid solution. On the other hand, to a suspension of 7β-amino-3-(5-methyl-1,3,4-thiadiazol-2-yl)thio-3-cephem-4-carboxylic acid (1.16 g) in tetrahydrofuran (17 ml) was added N-trimethylsilylacetamide (3.7 g). The suspension was stirred at 20-40° C. for 40 minutes to give a clear solution. To the solution was added the activated acid solution prepared above at -20° C. The mixture was stirred at -20~5° C. for 40 minutes. The reaction mixture was added to a mixture of ethyl acetate (100 ml), sodium hydrogen carbonate (1.59 g) and water (100 ml). To the separated aqueous solution was added ethyl acetate (100 ml). The mixture was adjusted to pH 2 with 1N-hydrochloric acid. The organic layer was washed with saturated aqueous sodium chloride, dried over magnesium sulfate and concentrated in vacuo. The residue was triturated with diethyl ether to give 7β-[2-(5-tert-butoxycarbonylamino-1,2,4-thiadiazol-3-yl)acetamido]-3-(5-methyl-1,3,4-thiadiazol-2-yl)thio-3-cephem-4-carboxylic acid (1.17 g).

reactant | Phosphorus oxychloride | 473 μl | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(5-tert-butoxycarbonylamino-1,2,4-thiadiazol-3-yl)acetic acid | 1.0 g | C(C)(C)(C)OC(=O)NC1=NC(=NS1)CC(=O)O | C9H13N3O4S
reactant | 7β-amino-3-(5-methyl-1,3,4-thiadiazol-2-yl)thio-3-cephem-4-carboxylic acid | 1.16 g | N[C@H]1[C@@H]2N(C(=C(CS2)C=2SC(=NN2)C)C(=S)O)C1=O | C10H10N4O2S3
reactant | N-trimethylsilylacetamide | 3.7 g | C[Si](NC(C)=O)(C)C | C5H13NOSi
reactant | sodium hydrogen carbonate | 1.59 g | C(O)([O-])=O.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 17 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 17 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 388 μl | CN(C=O)C | C3H7NO
product | 7β-[2-(5-tert-butoxycarbonylamino-1,2,4-thiadiazol-3-yl)acetamido]-3-(5-methyl-1,3,4-thiadiazol-2-yl)thio-3-cephem-4-carboxylic acid | 1.17 g | C(C)(C)(C)OC(=O)NC1=NC(=NS1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C=2SC(=NN2)C)C(=S)O)C1=O | C19H21N7O5S4
